US07312249B2
c. Preparation of 4-Allyl-1-ethoxymethoxy-2-ethylbenzene
15 g (58 mmol) of 4-bromo-1-ethoxymethoxy-2-ethylbenzene are dissolved in 150 ml of DMF. 26.9 ml (87 mmol) of allyltributyltin are added, and then the mixture is degassed with a nitrogen stream. 1.2 g (1.8 mmol) of dichlorobis (triphenylphosphino)palladium are added, and the medium is heated at 120° C. for 10 hours. The reaction medium is poured into water, and then extracted with ethyl acetate. The residue obtained after drying and concentration is purified by chromatography on a silica column (eluent heptane, and then heptane 95/ethyl acetate 5). A yellow oil is obtained (m=13.6 g, y=100%).

reactant | 4-bromo-1-ethoxymethoxy-2-ethylbenzene | 58 mmol, 15 g | BrC1=CC(=C(C=C1)OCOCC)CC | C11H15BrO2
reactant | allyltributyltin | 87 mmol, 26.9 ml | C(C=C)[Sn](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
catalyst | dichlorobis (triphenylphosphino)palladium | 1.8 mmol, 1.2 g | Cl[Pd](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)Cl
product | 4-Allyl-1-ethoxymethoxy-2-ethylbenzene | C(C=C)C1=CC(=C(C=C1)OCOCC)CC | C14H20O2
